US09402833B2
Conc. HNO3 (22.49 g, 357 mmol) was added to a solution 1-(5-fluoro-2-hydroxyphenyl)ethanone (50 g, 325 mmol) in acetic acid (300 mL) at 0° C. and stirring was continued at 20° C. for 3 h. The reaction mixture was quenched with ice cold water. The separated solid was filtered and washed with cold water and dried to afford 1-(5-fluoro-2-hydroxy-3-nitrophenyl)ethanone (Int-49) as pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.6 (1H, s), 8.3-8.2 (1H, dd), 8.2-8.1 (1H, dd), 2.7 (3H, s).

reactant | HNO3 | 357 mmol, 22.49 g | [N+](=O)(O)[O-] | HNO3
reactant | 1-(5-fluoro-2-hydroxyphenyl)ethanone | 325 mmol, 50 g | FC=1C=CC(=C(C1)C(C)=O)O | C8H7FO2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 1-(5-fluoro-2-hydroxy-3-nitrophenyl)ethanone | FC=1C=C(C(=C(C1)C(C)=O)O)[N+](=O)[O-] | C8H6FNO4
